US07312249B2
c. Synthesis of (4-{3-[3-Ethyl-4-(2-ethyl-2-hydroxybutoxy)-phenyl]propyl]-2-hydroxymethyl-phenyl)-methanol
640 mg (1.65 mmol) of ethyl {4-[3-(3,4-bis-hydroxymethyl-phenyl)-propyl]-2-ethyl-phenoxy}-acetate are dissolved in 30 ml of THF. 2.2 ml (6.6 mmol) of a 3M ethylmagnesium bromide solution are added dropwise. The reaction medium is stirred for 30 minutes, and is then treated with a saturated ammonium chloride solution. The residue obtained after extraction and concentration is purified by chromatography on a silica column. A colorless oil is obtained (m=510 mg, y=77%).

reactant | ethyl {4-[3-(3,4-bis-hydroxymethyl-phenyl)-propyl]-2-ethyl-phenoxy}-acetate | 1.65 mmol, 640 mg | OCC=1C=C(C=CC1CO)CCCC1=CC(=C(OCC(=O)OCC)C=C1)CC | C23H30O5
reactant | ethylmagnesium bromide | 3M | C(C)[Mg]Br
reactant | ammonium chloride | [Cl-].[NH4+]
reactant | THF | 30 ml | C1CCOC1 | C4H8O
product | (4-{3-[3-Ethyl-4-(2-ethyl-2-hydroxybutoxy)-phenyl]propyl]-2-hydroxymethyl-phenyl)-methanol | C(C)C=1C=C(C=CC1OCC(CC)(O)CC)CCCC1=CC(=C(C=C1)CO)CO | C25H36O4
